US07939526B2
Triethyl orthopropionate (2.5 mL, 12 mmol) was added to a stirred solution of N4-{2-[2-(methylsulfonyl)ethoxy]ethyl}quinoline-3,4-diamine (3.2 g, 10 mmol) in acetonitrile (50 mL). Pyridine hydrochloride (0.3 g) was added and the reaction mixture was heated to reflux with the volatiles being collected in a Dean Stark trap. After 40 minutes analysis by TLC indicated that the starting material was consumed. The reaction mixture was concentrated under reduced pressure to provide 3.2 g of 2-ethyl-1-{2-[2-(methylsulfonyl)ethoxy]ethyl}-1H-imidazo[4,5-c]quinoline as an oil which slowly solidified.

reactant | Triethyl orthopropionate | 12 mmol, 2.5 mL | C(CC)(OCC)(OCC)OCC | C9H20O3
reactant | N4-{2-[2-(methylsulfonyl)ethoxy]ethyl}quinoline-3,4-diamine | 10 mmol, 3.2 g | CS(=O)(=O)CCOCCNC1=C(C=NC2=CC=CC=C12)N | C14H19N3O3S
reactant | Pyridine hydrochloride | 0.3 g | Cl.N1=CC=CC=C1
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 2-ethyl-1-{2-[2-(methylsulfonyl)ethoxy]ethyl}-1H-imidazo[4,5-c]quinoline | 3.2 g | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCOCCS(=O)(=O)C | C17H21N3O3S
